US08211884B2
Cis-4-(4-{4-[(2-Phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-[1,4]diazepane-1-carbonyl)-cyclohexanecarboxylic acid benzyl ester (90 mg) was diluted in 30 mL of methanol and 100 mg of Pd/C (10%) was added. The mixture was placed on a Parr shaker for hydrogenation at 50 psi for 3 hr. The mixture was filtered and the solvent was removed to afford the product 4-(4-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-[1,4]diazepane-1-carbonyl)-cyclohexanecarboxylic acid (30 mg, 40% yield) as a white solid. LCMS for C30H31F3N4O5 calcd. (m/e) 584, observed 585 (M+H).

reactant | Cis-4-(4-{4-[(2-Phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-[1,4]diazepane-1-carbonyl)-cyclohexanecarboxylic acid benzyl ester | 90 mg | C(C1=CC=CC=C1)OC(=O)[C@@H]1CC[C@@H](CC1)C(=O)N1CCN(CCC1)C1=CC=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | C37H37F3N4O5
solvent | methanol | 30 mL | CO | CH4O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 4-(4-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-[1,4]diazepane-1-carbonyl)-cyclohexanecarboxylic acid | 30 mg, 40% yield | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)NC1=CC=C(C=C1)N1CCN(CCC1)C(=O)C1CCC(CC1)C(=O)O)C(F)(F)F | C30H31F3N4O5
